US08729263B2
To a solution of 6-(2-(benzyloxy)-6-methoxy-4-(5-methyloxazol-2-yl)phenyl)-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine (36 mg, 0.066 mmol) in 1:1 ethyl acetate/MeOH (1.3 mL) under an atmosphere of nitrogen was added palladium on carbon (10% Pd content, 7 mg, 6.6 umol). The atmosphere was replaced by hydrogen (balloon) and the mixture stirred rapidly at RT overnight. The solution was diluted with DCM and filtered through celite. The filtrate was concentrated to a yellow residue and acidified with HCl in MeOH (produced by slow addition of acetyl chloride (14 uL, 0.199 mmol) to 1 mL MeOH). The solution was concentrated under vacuum, the residue redissolved into MeOH, and loaded onto an SCX column preconditioned with MeOH. The column was washed with MeOH (20 mL) and eluted with 3.5 N ammonia in MeOH (20 mL). Evaporation of the eluent afforded the product as a light yellow residue. Sonication with diethyl ether resulted in formation of a light yellow solid. Solvent was removed under reduced pressure to provide 3-methoxy-2-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-5-(5-methyloxazol-2-yl)phenol (22 mg). LCMS Rt=0.54 min (LCMS method Q); MS=352.3 (M+1). 1H NMR (400 MHz, METHANOL-d4) δ ppm 8.22 (d, J=10.11 Hz, 1H), 7.18-7.29 (m, 3H), 6.96 (d, J=1.01 Hz, 1H), 5.07-5.20 (m, 1H), 3.98 (s, 3H), 3.03 (s, 3H), 2.46 (d, J=1.52 Hz, 3H), 1.73 (dd, J=12.5, 3.4 Hz, 2H), 1.62 (t, J=12.5 Hz, 2H), 1.42 (s, 6H), 1.26 (s, 6H).

reactant | 6-(2-(benzyloxy)-6-methoxy-4-(5-methyloxazol-2-yl)phenyl)-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine | 0.066 mmol, 36 mg | C(C1=CC=CC=C1)OC1=C(C(=CC(=C1)C=1OC(=CN1)C)OC)C1=CC=C(N=N1)N(C1CC(NC(C1)(C)C)(C)C)C | C32H39N5O3
reactant | hydrogen | [H][H] | H2
reactant | HCl | Cl | ClH
reactant | MeOH | 0.199 mmol, 14 uL | CO | CH4O
catalyst | palladium on carbon | 6.6 umol, 7 mg | [Pd] | Pd
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ethyl acetate MeOH | 1.3 mL | C(C)(=O)OCC.CO
product | 3-methoxy-2-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-5-(5-methyloxazol-2-yl)phenol | 22 mg | COC=1C(=C(C=C(C1)C=1OC(=CN1)C)O)C=1N=NC(=CC1)N(C1CC(NC(C1)(C)C)(C)C)C | C25H33N5O3
